US04897495
7a-Cyano-2,3,5,6,7,7a-hexahydro-1H-pyrrolizine
To a solution of aceton cyanohydrin (2.3 g, 27 mmol) saturated with ammonia, 1,7-dichloro-4-heptanone (0.50 g, 2.7 mmol) was added dropwise at 20° C. The resulting solution was stirred for 48 hours at 20° C. under ammonia gas atmosphere. To the reaction mixture, 0.1N-NaOH was added to extract with methylene chloride. The extract was dried over anhydrous sodium sulfate, concentrated and distilled in vacuo to afford 0.33 g of the desired compound (Yield: 89%).

reactant | aceton cyanohydrin | 27 mmol, 2.3 g | CC(C#N)(O)C | C4H7NO
reactant | ammonia | N | H3N
reactant | 1,7-dichloro-4-heptanone | 2.7 mmol, 0.50 g | ClCCCC(CCCCl)=O | C7H12Cl2O
reactant | NaOH | [OH-].[Na+]
product | 7a-Cyano-2,3,5,6,7,7a-hexahydro-1H-pyrrolizine | 0.33 g, Yield: 89% | C(#N)C12CCCN2CCC1 | C8H12N2
